US04421757
4-(4-Chloro-3-methylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-4-thiazoline hydrochloride
4.1 g of 4-(4-chloro-3-methylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-4-thiazoline are suspended in 150 ml of methanol and made acid with saturated ethereal hydrogen chloride solution, the solvent is distilled off and the residue is recrystallized from ethanol. M.p. 300°-302° C. (decomp.).

reactant | 4-(4-chloro-3-methylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-4-thiazoline | 4.1 g | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=C(C=C1)O)C)S(NC)(=O)=O | C17H16ClN3O3S2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 4-(4-Chloro-3-methylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-4-thiazoline hydrochloride | Cl.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=C(C=C1)O)C)S(NC)(=O)=O | InChI=1S/C17H16ClN3O3S2.ClH/c1-19-26(23,24)16-9-11(3-8-14(16)18)15-10-25-17(21(15)2)20-12-4-6-13(22)7-5-12;/h3-10,19,22H,1-2H3;1H
